US08859535B2
(4-Bromo-phenyl)-(8-thia-bicyclo[3.2.1]oct-3-yl)methanone
To a solution of (4-bromo-phenyl)-(8-thia-bicyclo[3.2.1]oct-3-yl)-methanol (1.99 g, 6.35 mmol) in DCM (100 ml) was added a total of manganese dioxide (8.28 g, 95.2 mmol) at RT and the reaction mixture was stirred for 24 hrs. The suspension was filtered and the residue was washed with DCM, dried in vacuo to yield the title intermediate (1.87 g, 5.83 mmol, 92%) as a colourless solid.

reactant | (4-bromo-phenyl)-(8-thia-bicyclo[3.2.1]oct-3-yl)-methanol | 6.35 mmol, 1.99 g | BrC1=CC=C(C=C1)C(O)C1CC2CCC(C1)S2 | C14H17BrOS
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 95.2 mmol, 8.28 g | [O-2].[O-2].[Mn+4]
product | (4-Bromo-phenyl)-(8-thia-bicyclo[3.2.1]oct-3-yl)methanone | 5.83 mmol, 1.87 g, 92% | BrC1=CC=C(C=C1)C(=O)C1CC2CCC(C1)S2 | C14H15BrOS
